US06787650B1
4-(4-Fluorobenzyl)piperidine hydrochloride
A solution of 4N hydrogen chloride in ethyl acetate (100 ml) was added to 1-tert-butoxycarbonyl-4-(4-fluorobenzyl)piperidine (39.9 g) and the solution was stirred for an hour at room temperature. The reaction mixture was concentrated under reduced pressure, then diethyl ether was added thereto. The resulting precipitate was collected by filtration, washed with diethyl ether, and dried under reduced pressure to give the title compound (30.1 g).

reactant | hydrogen chloride | 4N | Cl | ClH
reactant | 1-tert-butoxycarbonyl-4-(4-fluorobenzyl)piperidine | 39.9 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC=C(C=C1)F | C17H24FNO2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4-Fluorobenzyl)piperidine hydrochloride | 30.1 g | Cl.FC1=CC=C(CC2CCNCC2)C=C1 | InChI=1S/C12H16FN.ClH/c13-12-3-1-10(2-4-12)9-11-5-7-14-8-6-11;/h1-4,11,14H,5-9H2;1H
